* C:\Users\Prima Nafisman\Documents\Tugas Kuliah\Elday\Prima Nafisman_493817_UAS Elday\Task 1\Prima Nafisman_493817_Task_1.asc
MOSFET Vdrain Vgate 0 0 IRFZ44N
Vd N003 0 24
Vgg N006 0 PULSE(0 12 1u 100n 100n 10u 20u)
Rg Vgate N006 47
RL N003 Vdrain 10
Cd N003 0 100µ
Q§PNP N001 N004 Vgate_totem 0 2N2222
Q§NPN Vgate_totem N004 0 0 2N2907
MOSFET_Totem Vdrain_totem Vgate_totem 0 0 IRFZ44N
Rg1 N004 N005 47
RL1 N002 Vdrain_totem 10
Vpwm N005 0 PULSE(0 12 1u 100n 100n 10u 20u)
Vd1 N001 0 12
VL N002 0 24
.model NPN NPN
.model PNP PNP
.lib C:\Users\Prima Nafisman\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Prima Nafisman\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 50u
.backanno
.end
